US08217177B2
A 25 ml round bottom flask set up under nitrogen was charged with Pd2(dba)3 (301 mg, 0.33 mmol), BINAP (614 mg, 0.99 mmol) and sodium tert-butoxide (237 mg, 2.46 mmol). System was purged with Argon and 3-bromo-8-chloro-1,5-naphthyridine (400 mg, 1.64 mmol), diphenylmethanimine (0.28 mL, 1.64 mmol), and toluene (1M, 1.64 mL) were added. This was placed in a preheated oil bath at 80° C. and stirred at this temperature for 16 hours. Reaction cooled to room temperature, diluted with dichloromethane, and passed over a celite cake. Filtrate collected was concentrated to afford brown oil. This was purified by ISCO silica gel chromatography (40 g, 1% MeOH/DCM over 50 mins) to afford clean 8-chloro-N-(diphenylmethylene)-1,5-naphthyridin-3-amine (280 mg, 50% yield). MS[M+H]=344.0. Calc'd for C21H14ClN3=343.8.

reactant | BINAP | 0.99 mmol, 614 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 2.46 mmol, 237 mg | CC(C)([O-])C.[Na+]
reactant | 3-bromo-8-chloro-1,5-naphthyridine | 1.64 mmol, 400 mg | BrC=1C=NC2=C(C=CN=C2C1)Cl | C8H4BrClN2
reactant | diphenylmethanimine | 1.64 mmol, 0.28 mL | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd2(dba)3 | 0.33 mmol, 301 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 1M, 1.64 mL | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-N-(diphenylmethylene)-1,5-naphthyridin-3-amine | 280 mg, 50% yield | ClC=1C=CN=C2C=C(C=NC12)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H14ClN3
